Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / iodine / latex
 
Attending: ___.
 
Chief Complaint:
eye pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ no significant PMH p/w L ocular pain, upper eyelid swelling,
fever and diplopia as a referral from ___ with an MRI
showing preseptal cellulitis.

She reports that her eye pain began approximately 4 days ago,
with mild redness in the left lateral corner of the eye.  At 
that
time, she thought it could be pinkeye.  When she developed
worsening redness, she went to her PCP, who prescribed
clindamycin, which she has been taking.  However, the pain and
swelling continued to worsen.  On the day of admission she began
to have significant blurry vision, diplopia, worsening pain.  
She
reports that she had an episode of fever.  She developed
significant nausea.  She originally went to her PCP, was
subsequently sent to ___, her MRI was notable for
preseptal periorbital cellulitis.  She was subsequently
transferred here for ophthalmology workup and further 
evaluation.

In the ED, initial vital signs were 98.3, 58, 101/66, 16, 99% on
RA
Labs notable for WBC of 10.1, CBC otherwise unremarkable.  BMP
unremarkable.  She received 25 mg IV fentanyl.
Ophthalmology was made aware in the ED.  However given imaging
consistent with preseptal cellulitis, they recommended admission
to medicine, with optho to consult to see in the AM.

Upon arrival to the floor, the patient confirms the story as
above.  She denies recent history of sinus infection, sore
throat, ear infection.  She denies shortness of breath or chest
pain.  Denies abdominal pain.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- Rhabdomyosarcoma S/P chemo/radiation (approximately ___ years
ago)
- Cervical cancer status post surgery versus colposcopy
- Bipolar disorder

 
Social History:
___
Family History:
FAMILY HISTORY: 
+ DM, cervical cancer (mother)
+ rhabdomyosarcome (maternal relative)
 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Swelling of the upper left and lower left eyelid with
corresponding erythema, pupils equally round and reactive, pain
of the left eye with lateral and inferior deviation, gross
peripheral field testing with defects in middle/inferior vision,
able to identify number of fingers with significant difficulty
___ reported diplopia
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes moist 
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, CN II through XII intact
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 06:54AM BLOOD WBC-5.3 RBC-3.23* Hgb-11.1* Hct-33.7* 
MCV-104* MCH-34.4* MCHC-32.9 RDW-12.1 RDWSD-46.0 Plt ___
___ 06:40AM BLOOD WBC-9.0 RBC-3.17* Hgb-11.1* Hct-33.1* 
MCV-104* MCH-35.0* MCHC-33.5 RDW-12.3 RDWSD-47.4* Plt ___
___ 06:51AM BLOOD WBC-11.0* RBC-3.55* Hgb-12.1 Hct-36.8 
MCV-104* MCH-34.1* MCHC-32.9 RDW-12.2 RDWSD-46.7* Plt ___
___ 08:58PM BLOOD WBC-10.1* RBC-3.55* Hgb-12.6 Hct-36.8 
MCV-104* MCH-35.5* MCHC-34.2 RDW-12.5 RDWSD-47.0* Plt ___
___ 06:54AM BLOOD Glucose-75 UreaN-10 Creat-0.7 Na-142 
K-4.1 Cl-103 HCO3-25 AnGap-14
___ 08:58PM BLOOD Glucose-77 UreaN-13 Creat-0.6 Na-138 
K-3.9 Cl-105 HCO3-23 AnGap-10
___ 10:30AM BLOOD Vanco-16.5

MRI brain OSH:
MRI BRAIN ___
FINDINGS:  There is left periorbital and infraorbital soft 
tissue
edema and enhancement. No edema signal or enhancement is
demonstrated in the  retrobulbar fat to suggest postseptal
extension. There is symmetrical and unremarkable appearance of
the orbital globes. Orbital nerves appear unremarkable. 
There is minimal mucosal thickening noted in the posterior right
ethmoid air cells. There is no significant additional paranasal
sinus disease. 

Visualized portions of the brain appear unremarkable. There is 
unremarkable appearance of the pituitary gland. There is no
evidence of abnormal parenchymal or meningeal enhancement
following contrast 
administration. 

IMPRESSION: 
LEFT PERIORBITAL AND INFRAORBITAL CELLULITIS WITHOUT EVIDENCE OF 

POSTSEPTAL EXTENSION
 
Brief Hospital Course:
___ otherwise healthy woman presenting with left eye 
pain, found to have left preseptal cellulitis.

ACUTE/ACTIVE PROBLEMS:
#Preseptal cellulitis
#Infected chalazion: MRI significant for left periorbital and
infraorbital soft tissue edema, without evidence of post septal
extension. Given concern for severe preseptal cellulitis
began with broad-spectrum antibiotics with 
vancomycin/ctx/flagyl. Ophthalmology was consulted and followed 
along. Pt did not have any signs of orbital cellulitis by 
imaging or exam. She markedly improved on IV therapy and with 
ophthalmology approval was converted to PO Bactrim on ___. She 
continued to improve on this therapy and was discharged ___ 
with plans to continue abx through ___ to complete a 7 day 
course. Ophthalmology recommended a f/u in ___ weeks which was 
arranged prior to DC.  BCX NGTD during admission. 

CHRONIC/STABLE PROBLEMS:
# Bipolar disease: continued Seroquel

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 100 mg PO TID 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
you may purchase over the counter and take only as directed   
2.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) by 
mouth twice a day Disp #*7 Tablet Refills:*0 
3.  QUEtiapine Fumarate 100 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
preseptal cellulitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of redness and swelling around 
your left eye. You had an MRI and were evaluated by 
ophthalmology who recommended initially IV antibiotics for 
"preseptal cellulitis" or an infection in the skin and soft 
tissues around your eye. Given your improvement, your 
antibiotics were changed to pill antibiotics (Bactrim) on ___. 
You will need to continue your antibiotics through ___ and 
follow up with the eye doctor in ___ weeks. 
 
Followup Instructions:
___